US05922767
Synthesis of 3-(4-nitrobenzyloxy)benzylamine:
Suspended in 160 ml of anhydrous tetrahydrofuran were 3.783 g (0.100 mol) of sodium boron hydride, and a solution of 11.402 g (0.100 mol) of trifluoroacetic acid in 20 ml of anhydrous tetrahydrofuran was added dropwise to the suspension at room temperature. The resultant mixture was stirred for 10 minutes. A solution of 5.726 g (0.02 mol) of O-methyl-3-(4-nitrobenzyloxy)benzaldoxime in 20 ml of anhydrous tetrahydrofuran was added dropwise to this mixture. The mixture was stirred at room temperature for 3 hours and heated under reflux further for 2 hours. After cooling the mixture, 20 ml of water were added under chilling with ice water, and the solvent was then distilled off under reduced pressure. The residue was extracted with chloroform, and the solvent was distilled out of the resultant extract under reduced pressure, thereby obtaining a crude product. The crude product was dissolved in 800 ml of 2 N hydrochloric acid, and the solution was washed with chloroform and then neutralized with 50% sodium hydroxide, followed by extraction with chloroform. The solvent was distilled out of the resultant extract under reduced pressure, thereby obtaining 4.234 g (yield: 82%) of the title compound.

reactant | sodium boron hydride | 0.100 mol, 3.783 g | B.[Na]
reactant | trifluoroacetic acid | 0.100 mol, 11.402 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | O-methyl-3-(4-nitrobenzyloxy)benzaldoxime | 0.02 mol, 5.726 g | CON=CC1=CC(=CC=C1)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H14N2O4
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2 N, 800 ml | Cl | ClH
product | 3-(4-nitrobenzyloxy)benzylamine | 4.234 g, yield: 82% | [N+](=O)([O-])C1=CC=C(COC=2C=C(CN)C=CC2)C=C1 | C14H14N2O3
